US05962581
60 ml of dried diethyl ether and 5.34 g of zirconocene dichloride were agitated in argon atmosphere at a temperature of -20° C. to form an admixture, and then 1.5M of methyl lithium was added little by little to the admixture, followed by the stirring of the admixture for a period of 70 minutes. After an additional stirring of the admixture for a period of 30 minutes at a temperature of 0° C., the diethyl ether was removed and a white solid precipitated was sublimed to obtain zirconocene dimethyl.

reactant | zirconocene dichloride | 5.34 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2]
reactant | methyl lithium | 1.5M | C[Li]
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | zirconocene dimethyl | [CH3-].[CH3-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+4] | InChI=1S/2C5H5.2CH3.Zr/c2*1-2-4-5-3-1;;;/h2*1-5H;2*1H3;/q4*-1;+4
